US06753331B1
1-(5-Bromoindol-2-ylsulphonyl)-4-[4-(4-pyridyl)benzoyl]piperazine
By a method analogous to that described in Example 3 starting from 4-(4-pyridyl)benzoic acid (199 mg, 1 mmol) and 1-(5-bromoindol-2-ylsulphonyl)piperazine (344 mg, 1 mmol, 1 mol eq.), was prepared 1-(5-bromoindol-2-ylsulphonyl)-4-[4-(4-pyridyl)benzoyl]piperazine methane sulphonic acid salt, (155 mg), 1H NMR (d6-DMSO) 2.3 (s, 3H), 3.0-3.3 (broad d, 4H), 3.4-3.8 (broad d, 4H), 7.0 (d, 1H), 7.45 (s, 2H), 7.6 (d, 2H), 7.95 (s, 1H), 8.0 (d, 2H), 8.25 (d, 2H), 8.9 (d, 2H), 12.4 (s, 1H), signals were also present due to ethanol (0.15 mol equiv.); MS (M+H)+ 525/527.

reactant | 4-(4-pyridyl)benzoic acid | 1 mmol, 199 mg | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | 1-(5-bromoindol-2-ylsulphonyl)piperazine | 1 mmol, 344 mg | BrC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1 | C12H14BrN3O2S
reactant | 1-(5-bromoindol-2-ylsulphonyl)-4-[4-(4-pyridyl)benzoyl]piperazine methane sulphonic acid salt | 155 mg | CS(=O)(=O)O.BrC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O
reactant | ethanol | 0.15 mol | C(C)O | C2H6O
product | 1-(5-Bromoindol-2-ylsulphonyl)-4-[4-(4-pyridyl)benzoyl]piperazine | BrC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C24H21BrN4O3S
